US04906402
(b) Propyl (R)-2-(4-hydroxyphenylthio)propanoate (PHPTP)
A solution of HPTPA (0.06 mole, 11 g) in an molar excess of 1-propanol (45 ml), containing a crystal of p-toluene sulphonic acid, was heated at reflux while allowing water to distil from the reaction mix. When no acid remained, as shown by IR-spectroscopy, the excess solvent was allowed to distil out and the cold residue taken into ether and washed with saturated NaHCO3 solution, dried (MgSO4) and the crude product isolated by evaporation. This was purified by distillation under reduced pressure (yield: 83%; SOR: +98°,c=2). The properties of the product determined by IR, 1H-NMR and mass spectroscopy and elemental analysis were consistent with the assigned structure.

reactant | 1-propanol | 45 ml | C(CC)O | C3H8O
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
product | Propyl (R)-2-(4-hydroxyphenylthio)propanoate | yield: 83% | OC1=CC=C(C=C1)S[C@@H](C(=O)OCCC)C | C12H16O3S
